US08133886B2
6-(6-Acetylamino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid [4-[(3S)-3-amino-1-piperidinyl]-3-trifluoromethyl-phenyl]-amide
A solution of 2.3 ml hydrogen chloride (4 M in dioxane) is added to a stirred solution of 0.24 g (0.38 mmol) [(3S)-1-[4-[[[6-(6-acetylamino-pyrimidin-4-yloxy)-naphthalen-1-yl]carbonyl-]-amino]-2-(trifluoromethyl)phenyl]-3-piperidinyl]-carbamic acid, 1,1-dimethylethyl ester (Ex. 35) in 2.3 ml dioxan at room temperature. After 90 min, the mixture is poured into an excess of saturated aqueous NaHCO3. The crude product is filtered and purified by chromatography (SiO2, CH2Cl2/EtOH/NH3 90:9:1) to afford the title compound as a beige solid: m.p.: 218-228° C.

reactant | hydrogen chloride | 4 M, 2.3 ml | Cl | ClH
reactant | [(3S)-1-[4-[[[6-(6-acetylamino-pyrimidin-4-yloxy)-naphthalen-1-yl]carbonyl-]-amino]-2-(trifluoromethyl)phenyl]-3-piperidinyl]-carbamic acid, 1,1-dimethylethyl ester | 0.38 mmol, 0.24 g | C(C)(=O)NC1=CC(=NC=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)NC1=CC(=C(C=C1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O)C(F)(F)F | C34H35F3N6O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxan | 2.3 ml | O1CCOCC1 | C4H8O2
product | 6-(6-Acetylamino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid [4-[(3S)-3-amino-1-piperidinyl]-3-trifluoromethyl-phenyl]-amide | N[C@@H]1CN(CCC1)C1=C(C=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC(=C1)NC(C)=O)C(F)(F)F | C29H27F3N6O3
